US06534531B2
1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.0 g, 5.2 mmol, 2 eq) was added to a mixture of 2-amino-5-[[[5-(1,1-dimethylethyl)-2-oxazolyl]methyl]thio]thiazole (0.7 g, 2.6 mmol, 1 eq), 1-cyclopropyl-4-piperidine carboxylic acid (0.77 g, 3.9 mmol, 1.5 eq), 4-(dimethylamino)pyridine (0.16 g, 1.3 mmol, 0.5 eq), N,N-dimethylformamide (2.6 mL) and CH2Cl2 (7.8 mL). The reaction mixture was stirred at rt for 1 h, diluted with water (30 mL), and extracted with ethyl acetate (2×70 mL). The combined organic extracts were dried over anhydrous sodium sulfate, concentrated in vacuo, and purified by flash chromatography on silica gel eluting with a gradient of 0-10% triethylamine in ethyl acetate. The material was crystallized from ethyl acetate and hexanes to provide 0.7 g (65%) of 1-cyclopropyl-N-[5-[[[5-(1,1-dimethylethyl)-2-oxazolyl]methyl]thio]-2-thiazolyl]-4-piperidinecarboxamide as white crystals. MS: 421 [M+H]+; HPLC: 100% at 3.13 min (YMC S5 ODS column 4.6×50 mm, 10-90% aqueous methanol over 4 minutes containing 0.2% phosphoric acid, 4 mL/min, monitoring at 220 nm).

reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 5.2 mmol, 1.0 g, 2 eq | Cl.CN(CCCN=C=NCC)C
reactant | 2-amino-5-[[[5-(1,1-dimethylethyl)-2-oxazolyl]methyl]thio]thiazole | 2.6 mmol, 0.7 g, 1 eq | NC=1SC(=CN1)SCC=1OC(=CN1)C(C)(C)C | C11H15N3OS2
reactant | 1-cyclopropyl-4-piperidine carboxylic acid | 3.9 mmol, 0.77 g, 1.5 eq | C1(CC1)N1CCC(CC1)C(=O)O | C9H15NO2
reactant | N,N-dimethylformamide | 2.6 mL | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | 1.3 mmol, 0.16 g, 0.5 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 30 mL | O | H2O
solvent | CH2Cl2 | 7.8 mL | C(Cl)Cl | CH2Cl2
product | 1-cyclopropyl-N-[5-[[[5-(1,1-dimethylethyl)-2-oxazolyl]methyl]thio]-2-thiazolyl]-4-piperidinecarboxamide | 0.7 g, 65% | C1(CC1)N1CCC(CC1)C(=O)NC=1SC(=CN1)SCC=1OC(=CN1)C(C)(C)C | C20H28N4O2S2
